US07737166B2
N,N-Dimethyl-3-(methylamino)propionamide (I-141)
Benzyl [2-(dimethylcarbamoyl)ethyl]methylcarbamate (I-140) (0.62 g, 2.35 mmol) was dissolved in tetrahydrofuran (15 ml), and 10% palladium-carbon (containing about 50% water, 0.15 g) was added, followed by stirring for 16 hours under hydrogen gas atmosphere. The catalyst was removed by filtration, and the solvent was evaporated away under reduced pressure to obtain a yellow oil (0.31, quant.).

reactant | Benzyl [2-(dimethylcarbamoyl)ethyl]methylcarbamate | 2.35 mmol, 0.62 g | CN(C(=O)CCN(C(OCC1=CC=CC=C1)=O)C)C | C14H20N2O3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.15 g | [C].[Pd]
product | N,N-Dimethyl-3-(methylamino)propionamide | CN(C(CCNC)=O)C | C6H14N2O
